US09334269B2
To a stirred solution of piperidine-1,4-dicarboxylic acid mono-(9H-fluoren-9-ylmethyl) ester (5 g, 14.2 mmol) in CH2Cl2 (50 mL) was added DMF (0.5 mL) and the resulting solution was cooled to 0° C. To this solution oxalyl chloride (3.6 g, 28.44 mmol) was added dropwise and the reaction mixture was stirred at RT for 16 h. The reaction mixture was concentrated under reduced pressure to afford (9H-fluoren-9-yl)methyl 4-(chlorocarbonyl)-piperidine-1-carboxylate (5 g, 95%) as brown liquid.

reactant | piperidine-1,4-dicarboxylic acid mono-(9H-fluoren-9-ylmethyl) ester | 14.2 mmol, 5 g | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)N1CCC(CC1)C(=O)O | C21H21NO4
reactant | DMF | 0.5 mL | CN(C)C=O | C3H7NO
reactant | oxalyl chloride | 28.44 mmol, 3.6 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | (9H-fluoren-9-yl)methyl 4-(chlorocarbonyl)-piperidine-1-carboxylate | 5 g, 95% | ClC(=O)C1CCN(CC1)C(=O)OCC1C2=CC=CC=C2C=2C=CC=CC12 | C21H20ClNO3
